US06982348B2
4-fluoro-N-((1RS,2SR)-2-(4-fluorophenyl)-2-hydroxy-1-((2-(trifluoromethyl)phenyl)methyl)ethyl)-1-naphthalenecarboxamide
To a solution of (1RS,2SR)-2-amino-1-(4-fluorophenyl)-3-(2-(trifluoromethyl)phenyl)-1-propanol (450 mg, 1.44 mmol) in acetonitrile (30 ml) were added 4-fluoronaphthalenecarboxylic acid (274 mg, 1.44 mmol), 1-ethyl-3-(3-dimethylaminopropyl)carbodiimide hydrochloride (358 mg, 1.87 mmol) and 1-hydroxy-1H-benzotriazole (220 mg, 1.44 mmol) and the mixture was stirred overnight at room temperature. The reaction solution was diluted with water (100 ml) and extracted with ethyl acetate (100 ml×2). The extract was washed with saturated brine, dried over anhydrous magnesium sulfate and evaporated under reduced pressure. The residue was purified by silica gel column chromatography (hexane:ethyl acetate=1:1). Recrystallization from ethyl acetate-hexane gave the title compound (548 mg, 79%).

reactant | (1RS,2SR)-2-amino-1-(4-fluorophenyl)-3-(2-(trifluoromethyl)phenyl)-1-propanol | 1.44 mmol, 450 mg | NC(C(O)C1=CC=C(C=C1)F)CC1=C(C=CC=C1)C(F)(F)F | C16H15F4NO
reactant | 4-fluoronaphthalenecarboxylic acid | 1.44 mmol, 274 mg | FC1=CC=C(C2=CC=CC=C12)C(=O)O | C11H7FO2
reactant | 1-ethyl-3-(3-dimethylaminopropyl)carbodiimide hydrochloride | 1.87 mmol, 358 mg | Cl.C(C)N=C=NCCCN(C)C
reactant | 1-hydroxy-1H-benzotriazole | 1.44 mmol, 220 mg | ON1N=NC2=C1C=CC=C2 | C6H5N3O
solvent | acetonitrile | 30 ml | C(C)#N | C2H3N
solvent | water | 100 ml | O | H2O
product | 4-fluoro-N-((1RS,2SR)-2-(4-fluorophenyl)-2-hydroxy-1-((2-(trifluoromethyl)phenyl)methyl)ethyl)-1-naphthalenecarboxamide | 548 mg, 79% | FC1=CC=C(C2=CC=CC=C12)C(=O)NC(C(O)C1=CC=C(C=C1)F)CC1=C(C=CC=C1)C(F)(F)F | C27H20F5NO2
